US04962109
Sodium (1.0 g) was added to dry isopropanol (200 cm3), maintained at 40° C. under an atmosphere of dry nitrogen. After dissolution was complete, 4-(bromomethyl)-2,3,5,6-tetrafluorobenzyl alcohol (10.9 g) was added and the reaction was stirred for 16 hours, at the ambient temperature. The reaction mixture was poured into water, acidified with dilute aqueous hydrochloric acid, and extracted into ethyl acetate. The combined organic extracts were washed with water, dried over anhydrous magnesium sulphate, and concentrated by evaporation of the solvent under reduced pressure. The residue was combined with the product of a similar reaction and distilled under reduced pressure to give 2,3,5,6-tetrafluoro-4-[(1-methylethoxy)methyl]-benzyl alcohol (0.8 g).

reactant | Sodium | 1.0 g | [Na] | Na
reactant | isopropanol | 200 cm3 | C(C)(C)O | C3H8O
reactant | 4-(bromomethyl)-2,3,5,6-tetrafluorobenzyl alcohol | 10.9 g | BrCC1=C(C(=C(CO)C(=C1F)F)F)F | C8H5BrF4O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2,3,5,6-tetrafluoro-4-[(1-methylethoxy)methyl]-benzyl alcohol | 0.8 g | FC1=C(CO)C(=C(C(=C1F)COC(C)C)F)F | C11H12F4O2
